US06235754B1
Preparation of 1-(1-Bromo-2-methylpropyl)-4-chlorobenzene
A mixture of p-chloro-α-isopropylbenzyl alcohol (33.08 g) in 48% hydrobromic acid (330 mL) is stirred at room temperature for 1 hour and extracted with hexanes. The combined organic extracts are washed sequentially with water, saturated sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate, and concentrated in vacuo to give the title product as a yellow oil (42.98 g) which is identified by NMR spectral analysis.

reactant | p-chloro-α-isopropylbenzyl alcohol | 33.08 g | ClC1=CC=C(C(C(C)C)O)C=C1 | C10H13ClO
reactant | hydrobromic acid | 330 mL | Br | BrH
product | 1-(1-Bromo-2-methylpropyl)-4-chlorobenzene | 42.98 g | BrC(C(C)C)C1=CC=C(C=C1)Cl | C10H12BrCl
